US07855297B2
To a solution of ethyl pyrazole-4-carboxylate (13.0 g), 4-dimethylaminopyridine (0.57 g) and triethylamine (15.5 mL) in tetrahydrofuran (80 mL) was added a solution of di-tert-butyl dicarbonate (24.3 g) in tetrahydrofuran (20 mL) at room temperature. The mixture was stirred at the same temperature for 4 hr. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give ethyl 1-(tert-butyloxycarbonyl)pyrazole-4-carboxylate (22.1 g).

reactant | ethyl pyrazole-4-carboxylate | 13.0 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | triethylamine | 15.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 24.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.57 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 1-(tert-butyloxycarbonyl)pyrazole-4-carboxylate | 22.1 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)C(=O)OCC | C11H16N2O4
